US04499299
A mixture of 1 g (5.55 mmoles) of 2,4-dihydroxy-3-propylacetophenone, 1.27 g (5.55 mmoles) of para-(β-bromoethyl)benzoic acid, 2.4 g of potassium carbonate, and 50 ml of dry acetone was stirred and refluxed for 3 days. The reaction flask was cooled and the stirred mixture was diluted with H2O and acidified with 6N HCl. Extraction with ethyl acetate and drying with Na2SO4 afforded the crude product after evaporating the ethyl acetate in vacuo. Pure 4-β-(4-acetyl-3-hydroxy-2-propylphenoxy)ethyl benzoic acid was isolated by flash chromatography on silica gel eluting with 5% MeOH/CH2Cl2 containing 0.1% acetic acid.

reactant | 2,4-dihydroxy-3-propylacetophenone | 5.55 mmoles, 1 g | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | para-(β-bromoethyl)benzoic acid | 5.55 mmoles, 1.27 g | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 6N | Cl | ClH
solvent | H2O | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-β-(4-acetyl-3-hydroxy-2-propylphenoxy)ethyl benzoic acid | C(C)(=O)C1=C(C(=C(OCCC2=CC=C(C(=O)O)C=C2)C=C1)CCC)O | C20H22O5
